US08802664B2
To a solution of Acetic acid 5-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pent-4-enyl ester (150 mg) in a mixture of water (1 mL), 1,4-dioxane (1 mL) and methanol (1 mL) is added 1N sodium hydroxide solution (0.6 mL). The reaction mixture is stirred at room temperature for 2 hours. After neutralization to pH 7 with addition of 1N hydrochloric acid, the reaction mixture is extracted with dichloromethane. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 95/5/0.5 to 90/10/1) to afford 5-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pent-4-en-1-ol.

reactant | Acetic acid 5-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pent-4-enyl ester | 150 mg | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)C=CCCCOC(C)=O)OC2CCN(CC2)C | C27H32N2O3S
reactant | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 0.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 5-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pent-4-en-1-ol | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)C=CCCCO)OC2CCN(CC2)C | C25H30N2O2S
